US07625932B2
Preparation of 4-cyano-3-(4-cyclopentyl-phenyl)-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester
Add cyclopentylzinc bromide (0.5M, 7.2 mL, 3.6 mmol) to 3-(4-bromo-phenyl)-4-cyano-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (0.50 g, 1.80 mmol, prepared in example E-3a or E-3b), tris(dibenzylideneacetone)palladium(0) (0.06 g, 0.07 mmol), and triphenylphosphine (0.07 g, 0.27 mmol) in dioxane and heat to 80° C. with stirring. After 18 hours, cool the reaction mixture, and pour into water. Extract the quenched reaction mixture with ethyl acetate. Combine the organic extracts, wash with water and brine, dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Purify the residue by flash chromatography eluting with ethyl acetate:hexane to provide the title compound. Mass spectrum (m/e): 323.3 (M+1).

reactant | cyclopentylzinc bromide | 3.6 mmol, 0.5M, 7.2 mL | [Br-].C1(CCCC1)[Zn+]
reactant | 3-(4-bromo-phenyl)-4-cyano-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 1.80 mmol, 0.50 g | C(C)OC(=O)C=1N(C=C(C1C1=CC=C(C=C1)Br)C#N)C | C15H13BrN2O2
reactant | triphenylphosphine | 0.27 mmol, 0.07 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-cyano-3-(4-cyclopentyl-phenyl)-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C=C(C1C1=CC=C(C=C1)C1CCCC1)C#N)C | C20H22N2O2
